US06479527B1
Ethyl 4-(3,4-dichlorobenzyl)-2-(thien-2-yl)thieno[3,2-b]pyrrole-5-carboxylate (Compound 10 in Table I)
Tetrakis-(triphenylphosphine)palladium (0) (20 mg) was added to a degassed solution of ethyl4-(3,4-dichlorobenzyl)-2-bromothieno[3,2-b]pyrrole-5-carboxylate (0.1 g) and thiophene-2-boronic acid (34 mg) in ethanol (1 ml), toluene (1 ml) and aqueous potassium carbonate (2N, 1 ml), and the reaction stirred at 80° C. under an argon atmosphere for 6 hours. The reaction was cooled, poured into 2N HCl and extracted with ether. Combined organic extracts were cried (MgSO4), concentrated in vacuo and the residue purified by column chromatography using isohexane to isohexane-25% ethyl acetate as eluent to give the product as a pale yellow crystalline solid (77 mg, 77%), M/z (+) 435 (MH+), 276, 204, 159, 127.

reactant | ethyl4-(3,4-dichlorobenzyl)-2-bromothieno[3,2-b]pyrrole-5-carboxylate | 0.1 g | C(C)OC(=O)C1=CC2=C(N1CC1=CC(=C(C=C1)Cl)Cl)C=C(S2)Br | C16H12BrCl2NO2S
reactant | thiophene-2-boronic acid | 34 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | potassium carbonate | 2N, 1 ml | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 4-(3,4-dichlorobenzyl)-2-(thien-2-yl)thieno[3,2-b]pyrrole-5-carboxylate | 77 mg, 77% | ClC=1C=C(CN2C3=C(C=C2C(=O)OCC)SC(=C3)C=3SC=CC3)C=CC1Cl | C20H15Cl2NO2S2
